US06235789B1
3-(3-Bromo-4-methoxy-5-methylphenyl)propionic acid
To a solution of 17.0 g (56.4 mmol) of ethyl 3-(3bromo-4-methoxy-5-methylphenyl)propionate in methanol (30 ml) was added a 8N aqueous solution of sodium hydroxide (200 ml). The mixture was stirred for 18 hours at room temperature. The reaction mixture was acidified with 5N HCl, which was subjected to extraction with chloroform. The extract solution was washed with brine, which was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give 14.8 g (yield 96%) of the above-titled compound as an oily product.

reactant | ethyl 3-(3bromo-4-methoxy-5-methylphenyl)propionate | 56.4 mmol, 17.0 g | BrC=1C=C(C=C(C1OC)C)CCC(=O)OCC | C13H17BrO3
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 3-(3-Bromo-4-methoxy-5-methylphenyl)propionic acid | 14.8 g, yield 96% | BrC=1C=C(C=C(C1OC)C)CCC(=O)O | C11H13BrO3
